US07825253B2
2-Bromo-6-nitrophenol (500 mg, 2.29 mmol), bis(acetonitrile) palladium (II) chloride (12 mg, 0.05 mmol), 2-dicylohexylphosphino-2′,4′,6′-triisopropylbiphenyl (68 mg, 0.14 mmol), cesium carbonate (1.95 g, 6 mmol) and tert-butylacetylene (577 mg, 7 mmol) were dissolved 5 mL acetonitrile in a sealed tube and heated at 75° C. overnight. The reaction mixture was directly chromatographed (silica gel, heptane/ethyl acetate 9:1/4:1/1:1) to yield 2-tert-butyl-7-nitro-benzofuran as an off-white solid (185 mg, 37%).

reactant | 2-Bromo-6-nitrophenol | 2.29 mmol, 500 mg | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | 2-dicylohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.14 mmol, 68 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 6 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butylacetylene | 7 mmol, 577 mg | C(C)(C)(C)C#C | C6H10
catalyst | bis(acetonitrile) palladium (II) chloride | 0.05 mmol, 12 mg | [Pd](Cl)Cl.C(C)#N.C(C)#N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-tert-butyl-7-nitro-benzofuran | 185 mg, 37% | C(C)(C)(C)C=1OC2=C(C1)C=CC=C2[N+](=O)[O-] | C12H13NO3
